US06136823
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (60 mg) and a 40% aqueous solution (110 mg) of methylamine were added to pyridine (1,160 mg), and the mixture was stirred at 40° C. for 16 hours. The solvent was distilled off under reduced pressure, and ethanol (1 ml) was added to the residue. Deposits were collected by filtration and washed successively with ethanol and diisopropyl ether to obtain the title compound (58 mg) as a colorless powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 60 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O)F)F | C15H6F5N3O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 1,160 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-6,8-difluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 58 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)F)NC)F)=O)C(=O)O)F)F | C16H10F4N4O3
